US05556698
Monosodium ethyl-N,N-bis(hydroxyethyl)aminomethyl phosphonate
This intermediate was prepared by adding 256 parts of diethyl-N,N-bis(hydroxyethyl)aminomethyl phosphonate to a 14% by weight solution of sodium hydroxide in water in a stirred reactor equipped with a distillation column and heating the mixture slowly to cause distillation of by-product ethanol to begin. The column temperature was maintained at 72°-75° C. and the reactor temperature was maintained at 80° C. until distillation stopped. The pH of the cooled product was 10.1 and the percent solids was 51.7.

reactant | diethyl-N,N-bis(hydroxyethyl)aminomethyl phosphonate | P(OC(N(CCO)CCO)(CC)CC)([O-])=O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | Monosodium ethyl-N,N-bis(hydroxyethyl)aminomethyl phosphonate | P(OC(N(CCO)CCO)CC)([O-])=O.[Na+] | InChI=1S/C7H18NO5P.Na/c1-2-7(13-14(11)12)8(3-5-9)4-6-10;/h7,9-10,14H,2-6H2,1H3,(H,11,12);/q;+1/p-1
